US08957074B2
Following general N—C coupling procedure 1, tert-butyl 3-(6-aminopyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (120 mg, 0.361 mmol) was combined with 2-chloro-7-cyclohexyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (111 mg, 0.361 mmol) which gave tert-butyl 3-(6-(7-cyclohexyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (120 mg) in 55.1% yield. MS m/z 603.6 (M+H)+.

reactant | tert-butyl 3-(6-aminopyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 0.361 mmol, 120 mg | NC1=CC=C(C=N1)N1CC2CCC(CC1=O)N2C(=O)OC(C)(C)C | C17H24N4O3
reactant | 2-chloro-7-cyclohexyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.361 mmol, 111 mg | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCCC2 | C15H19ClN4O
product | tert-butyl 3-(6-(7-cyclohexyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 120 mg, 55.1% yield | C1(CCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CC1CCC(CC2=O)N1C(=O)OC(C)(C)C)C(N(C)C)=O | C32H42N8O4
